US06991914B2
2.5 g of 3-chloro-4-methyl-7-hydroxy coumarin was dissolved in 60 ml of tetrahydrofuran in a 250 ml flask, and then 3.6 g of potassium carbonate and 3.6 ml of triethylamine were added to the solution. After 30 minutes, 10.0 ml of palmitoyl chloride was added thereto and the mixture was stirred for 2 hours at room temperature. Thereafter, 50 ml of distilled water and 250 ml of ethyl acetate were added to extract the title compound into the ethyl acetate phase. The ethyl acetate phase was washed with 200 ml of salt water, and then dried with manganese anhydride. Following the distillation and evaporation of the solvent, the residue was recrystalized with hexane and ethyl acetate to obtain white 3-chloro-4-methyl-7-hydroxy coumarin palmitate.

reactant | 3-chloro-4-methyl-7-hydroxy coumarin | 2.5 g | ClC=1C(OC2=CC(=CC=C2C1C)O)=O | C10H7ClO3
reactant | potassium carbonate | 3.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 3.6 ml | C(C)N(CC)CC | C6H15N
reactant | palmitoyl chloride | 10.0 ml | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 50 ml | O | H2O
product | 3-chloro-4-methyl-7-hydroxy coumarin palmitate | C(CCCCCCCCCCCCCCC)(=O)O.ClC=1C(OC2=CC(=CC=C2C1C)O)=O | InChI=1S/C16H32O2.C10H7ClO3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16(17)18;1-5-7-3-2-6(12)4-8(7)14-10(13)9(5)11/h2-15H2,1H3,(H,17,18);2-4,12H,1H3
